US08207164B2
g) 5-(3-Bromo-phenyl)-5-difluoromethyl-morpholin-3-one
N-[1-(3-Bromo-phenyl)-2,2-difluoro-1-hydroxymethyl-ethyl]-2-chloro-acetamide (8.10 g, 23.65 mmol) and potassium tert-butoxide (5.31 g, 47.3 mmol) were heated to 95° C. in 118 ml tert-butanol for 30 minutes. After completion water was added and the reaction was evaporated. The residue was put between ethyl acetate and water. The phases were separated and the aqueous phase was extracted twice with ethyl acetate. The organic phases were washed with water and brine, dried over Na2SO4 and concentrated under reduced pressure to yield the title compound as off-white solid. 1H-NMR (360 MHz, DMSO-d6): 9.13 (s, 1H, NH), 7.78 (s, 1H), 7.59 (m, 2H), 7.42 (t, 1H), 6.48 (t, 1H, CHF2), 4.28 (d, 1H), 4.10 (m, 2H), 3.92 (m, 1H); MS: 306 [(M+H)+].

reactant | N-[1-(3-Bromo-phenyl)-2,2-difluoro-1-hydroxymethyl-ethyl]-2-chloro-acetamide | 23.65 mmol, 8.10 g | BrC=1C=C(C=CC1)C(C(F)F)(CO)NC(CCl)=O | C11H11BrClF2NO2
reactant | potassium tert-butoxide | 47.3 mmol, 5.31 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | tert-butanol | 118 ml | C(C)(C)(C)O | C4H10O
product | 5-(3-Bromo-phenyl)-5-difluoromethyl-morpholin-3-one | BrC=1C=C(C=CC1)C1(COCC(N1)=O)C(F)F | C11H10BrF2NO2
